US05218115
1,3-Dihydro-1-(pyrrolidinylcarbonyl)methyl-3(R)-amino-5-phenyl-2H-1,4-benzodiazepin-2-one hydrobromide
1,3-Dihydro-1-(pyrrolidinylcarbonyl)methyl-3(R){[(α-methyl)benzyloxy-carbonyl]-amino}-5-phenyl-2H-1,4-benzodiazepin-2-one (109 mg) was dissolved in 10 ml of dry methylene chloride. The solution was cooled to 0° C. and saturated with hydrogen bromide gas. After 30 minutes the solvent and excess hydrogen bromide were removed under reduced pressure to give 147 mg of the title compound as a pale yellow solid.

reactant | 1,3-Dihydro-1-(pyrrolidinylcarbonyl)methyl-3(R){[(α-methyl)benzyloxy-carbonyl]-amino}-5-phenyl-2H-1,4-benzodiazepin-2-one | 109 mg | N1(CCCC1)C(=O)CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OC(C2=CC=CC=C2)C)=O | C30H30N4O4
reactant | hydrogen bromide | Br | BrH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-1-(pyrrolidinylcarbonyl)methyl-3(R)-amino-5-phenyl-2H-1,4-benzodiazepin-2-one hydrobromide | 147 mg | Br.N1(CCCC1)C(=O)CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O | InChI=1S/C21H22N4O2.BrH/c22-20-21(27)25(14-18(26)24-12-6-7-13-24)17-11-5-4-10-16(17)19(23-20)15-8-2-1-3-9-15;/h1-5,8-11,20H,6-7,12-14,22H2;1H/t20-;/m1./s1
